US04672064
To a solution of 4-(3-chloropropyl)-7-methoxy-3,4-dihydro-2H-1,5-benzoxathiepin-3-one (0.8 g) in tetrahydrofuran (2 ml) and methanol (10 ml) is added sodium borohydride (0.1 g) under ice-cooling. The reaction mixture is stirred for another one hour and evaporated in vacuo. The residue is mixed with ethyl acetate and water. The orgonic layer is separated, washed with water, dried over anhydrous sodium sulfate and evaporated to dryness in vacuo. The residue is submited to column chromatography on silica gel eluting with ethyl acetate-hexane (1:1) to give 4-(3-chloropropyl)-7-methoxy-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol (0.68 g) as a colorless oil.

reactant | 4-(3-chloropropyl)-7-methoxy-3,4-dihydro-2H-1,5-benzoxathiepin-3-one | 0.8 g | ClCCCC1C(COC2=C(S1)C=C(C=C2)OC)=O | C13H15ClO3S
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 4-(3-chloropropyl)-7-methoxy-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol | 0.68 g | ClCCCC1C(COC2=C(S1)C=C(C=C2)OC)O | C13H17ClO3S
